US08470872B2
(2,6-Difluorophenyl)(4-(tetrahydro-2H-pyran-2-yloxy)phenyl)-methanone (5)
A solution of ZnBr2 in THF (1.5 M, 2 mL, 3.0 mmol) was added to a solution of (4-(tetrahydro-2H-pyran-2-yloxy)phenyl)magnesium bromide in THF (0.2 M, 15 mL, 3 mmol) under an atomsphere of argon atr.t. The reaction mixture was stirred for 10 minutes, cooled with a dry-ice acetone bath. Palladium tetrakistriphenylphosphine (50 mg) and a solution of 2,6-difluorobenzoyl chloride (0.37 mL, 3 mmol) in THF (2 mL) were added. The mixture was stirred over night at r.t. The organic phase was washed with brine (2×20 mL), dried (Na2SO4) and concentrated yielding a solid. Purified by flash chromatography (eluent: heptane→20% ethyl acetate in heptane). Yield: 318 mg, 33% (approx. 85% pure according to 1H-NMR). 1H-NMR (400 MHz, CDCl3): δ 7.83-7.78 (m, 2H), 7.49-7.38 (m, 1H), 7.14-7.07 (m, 2H), 7.03-6.95 (m, 2H), 5.52 (t, J=3.1 Hz, 1H), 3.83-3.80 (m, 1H), 3.63-3.58 (m, 1H), 2.10-1.90 (m, 1H), 1.89-1.85 (m, 2H), 1.72-1.58 (m, 3H).

reactant | (4-(tetrahydro-2H-pyran-2-yloxy)phenyl)magnesium bromide | O1C(CCCC1)OC1=CC=C(C=C1)[Mg]Br
reactant | 2,6-difluorobenzoyl chloride | 3 mmol, 0.37 mL | FC1=C(C(=O)Cl)C(=CC=C1)F | C7H3ClF2O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
catalyst | ZnBr2 | [Zn+2].[Br-].[Br-]
solvent | THF | 3 mmol, 0.2 M, 15 mL | C1CCOC1 | C4H8O
solvent | THF | 3.0 mmol, 1.5 M, 2 mL | C1CCOC1 | C4H8O
product | (2,6-Difluorophenyl)(4-(tetrahydro-2H-pyran-2-yloxy)phenyl)-methanone | FC1=C(C(=CC=C1)F)C(=O)C1=CC=C(C=C1)OC1OCCCC1 | C18H16F2O3
